Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Coronary angiogram (___)

 
History of Present Illness:
Patient is a ___ male with a history of pulmonary
sarcoidosis, prediabetes, hypertension, and dyslipidemia who
presents with several hours of chest pain.

Of note, patient had undergone outpatient exercise stress test
___, which showed ischemic changes with depressions in
II,II, and AVF (without significant symptomatology), plan
initially made to pursue stress TTE later on this month
___, deferring catheterization based on patient
preference).  Patient was given a prescription for high 
intensity
statin in addition to metoprolol and NTG.  Upon arrival home,
patient went to sleep and then began to have acute onset,
squeezing chest pain beneath the left aspect of his sternum, 
more
intense than that which he has previously experienced (see
below).  No associated palpitations, diaphoresis, SOB, N/V, or
lightheadedness/dizziness.  Patient self-administered four baby
aspirin and presented to the ___ ED for evaluation/management.

In the ED...

- Initial vitals: 98.8 84 144/92 16 100% RA 

- Exam:
GEN Lying in bed, anxious appearing
HEENT PERRL
RESP CTAB
CV RRR, no murmurs
 
- EKG: Normal sinus rhythm (79 bpm).  Normal axis.  Normal
intervals.  Submillimeter ST elevation in V1 with J-point
elevation V2-V4.

- Labs/studies notable for:
White blood cell count 6.1, hemoglobin 14.4 (MCV 80), hematocrit
44.2, platelets 266

Troponin-T <.01

Sodium 137, potassium 3.6, chloride 98, bicarbonate 26, BUN 13,
creatinine 1.4, glucose 117

INR 1.2, ___ 13.2, PTT 30.2

- Patient was given:
___ 05:46 IV Heparin 3800 UNIT
___ 05:46 IV Heparin Started 750 units/hr 

The emergency department resident discussed patient's case with 
a
trace cardiology, recommendation was made for admission to ___
for consideration of coronary angiography.

- Vitals on transfer: 98.8  81 133/89 24 99% RA 

On the floor, patient recounts the history as above.  He says
that over the past 6 months he has felt much more winded upon
moderate exertion than he would expect.  No associated chest
pain, palpitations, or lightheadedness/dizziness.  Respiratory
symptoms have resolved quickly upon resting.  He feels that this
has become progressively worse over the past 6 months.  He is
able to walk quite a bit on flat surfaces without any 
complaints.
Pain does say that he has had some intermittent pain on the left
side of his chest, "poking and squeezing" in quality and 
fleeting
(only lasting less than a second).  This pain is not associated
with exertion or the sensation of shortness of breath described
above.  Apparently patient has had similar pains within the past
___ years and was ultimately diagnosed with pulmonary sarcoidosis
and treated with prednisone.  Of note, chest x-ray performed
___ did not show any intrapulmonary process.  Patient
denies any symptoms concerning for heart failure.  Of note,
patient does take Zantac and as needed Mylanta for history of
GERD.  His reflux symptoms are easily distinguishable for him
from the more concerning symptoms mentioned above.  Patient
denies any chest pain at rest, last experienced the fleeting
chest discomfort while in the ED.

10 point review of systems is otherwise negative.

 
Past Medical History:
-Pulmonary sarcoidosis (previously treated with prednisone,
patient does not regularly follow with a pulmonologist)
-HTN
-Dyslipidemia
-Prediabetes

 
Social History:
___
Family History:
Mother (alive in ___ glaucoma/HTN
Sister (died at age ___ breast cancer/HTN

 
Physical Exam:
ADMISSION PHYSICAL EXAM/DISCHARGE PHYSICAL EXAM
================================================
VS: 98.9 151/90 82 17 97 Ra  
GENERAL: NAD, speaking in full sentences.
HEENT: Anicteric sclera, MMM.
NECK: No appreciable JVP elevation.
CV: RRR, S1/S2, no murmurs, gallops, or rubs.
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles.
GI: Abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly.
EXTREMITIES: WWP, no cyanosis, clubbing, or edema.
PULSES: 2+ radial pulses bilaterally.
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric.

 
Pertinent Results:
ADMISSION LABS/DISCHARGE LABS
==============================
___ 04:20AM BLOOD WBC-6.1 RBC-5.56 Hgb-14.4 Hct-44.2 
MCV-80* MCH-25.9* MCHC-32.6 RDW-17.9* RDWSD-43.5 Plt ___
___ 04:20AM BLOOD Neuts-56.7 ___ Monos-12.4 Eos-3.5 
Baso-0.5 Im ___ AbsNeut-3.43 AbsLymp-1.61 AbsMono-0.75 
AbsEos-0.21 AbsBaso-0.03
___ 05:48AM BLOOD ___ PTT-30.2 ___
___ 04:20AM BLOOD Glucose-117* UreaN-13 Creat-1.4* Na-137 
K-7.1* Cl-98 HCO3-26 AnGap-13
___ 04:20AM BLOOD CK-MB-2
___ 04:20AM BLOOD cTropnT-<0.01
___ 11:55AM BLOOD cTropnT-<0.01
___ 06:05AM BLOOD K-3.6

IMAGING
========
TTE (___)
--------------
CONCLUSION:
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color Doppler. There is normal 
left ventricular wall thickness with a normal cavity size. There 
is normal regional and global
left ventricular systolic function. The visually estimated left 
ventricular ejection fraction is 65%. Left ventricular cardiac 
index is normal (>2.5 L/min/m2). There is no resting left 
ventricular outflow tract gradient. Normal right ventricular 
cavity size with normal free wall motion. The aortic sinus 
diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch diameter is normal. The 
aortic valve leaflets (3) appear structurally normal. There is 
no aortic valve stenosis. There is no aortic regurgitation. The 
mitral valve leaflets appear structurally normal with no mitral 
valve prolapse. There is trivial mitral regurgitation. The 
tricuspid valve leaflets appear structurally normal. There is 
physiologic tricuspid regurgitation. The pulmonary artery 
systolic pressure could not be estimated. There is a trivial 
pericardial effusion.
IMPRESSION: Normal left ventricular wall thickness and 
biventricular cavity sizes and regional/global systolic 
function. No significant valvular disease.

CORONARY ANGIOGRAM (___)
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel and is normal. This vessel bifurcates into the 
Left Anterior Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. There is a 50% stenosis in the 
proximal segment. There is moderate ectasia in the mid segment. 
The Septal Perforator, arising from the proximal segment, is a 
small caliber vessel. The Diagonal, arising from the proximal 
segment, is a medium caliber vessel.
Cx: The Circumflex artery, which arises from the LM, is a medium 
caliber vessel and is normal. The ___ Obtuse Marginal, arising 
from the proximal segment, is a medium caliber vessel. The ___ 
Obtuse Marginal, arising from the mid segment, is a small 
caliber vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel and is normal. The Acute Marginal, 
arising from the proximal segment, is a small caliber vessel. 
The Right Posterior Descending Artery, arising from the distal 
segment, is a medium caliber vessel. The Right Posterolateral 
Artery, arising from the distal segment, is a medium caliber 
vessel.

MICROBIOLOGY
=============
___ 10:20 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

 
Brief Hospital Course:
SUMMARY
========
Patient is a ___ male with a history of pulmonary 
sarcoidosis, prediabetes, hypertension, and dyslipidemia who 
presented with several hours of chest pain after having just 
recently undergone an ETT that showed ischemic changes in II, 
III, aVF.

ACTIVE ISSUES
==============
#Atypical Chest pain
#Abnormal stress test
Patient presented less than 24hrs after undergoing an abnormal 
ETT, though interestingly his presenting symptoms (L sternal CP, 
sharp and occurring at rest) were dissimilar to those 
experienced during the ETT (shortness of breath with exertion). 
Ultimately, patient and his cardiologist decided to start GDMT 
for CAD and deferred LHC (he was scheduled for stress echo 
___. The biggest concern was for unstable angina despite 
negative troponins and no ischemic changes on EKG, and we 
thought that a negative stress echo would not be reassuring. He 
was given aspirin, high-dose atorvastatin, metoprolol succinate, 
heparin gtt. The decision was made to go straight to cor angio, 
which showed 30% stenosis to mid-LAD with no FFR. He was 
discharged on his home meds of aspirin, atorvastatin, metoprolol 
succinate.

#Acute kidney injury
Baseline Cr was ___. Cr 1.4 on admission. Unclear 
etiology. Patient given 1L IVF in ED as well as maintenance 
fluids before and after cor angiogram. His home diuretic was 
held. 
- Discharge Cr: 1.4

#Hypertension
-Held home triamterene-HCTZ given ___

#Dyslipidemia 
-Continued home atorvastatin

#Prediabetes
-TI: should discuss initiation of metformin

#GERD
-Continued home ranitidine

CORE MEASURES:
==============
#CODE: Full (presumed)
#CONTACT: ___ 
Relationship: Wife 
Phone number: ___ 
Cell phone: ___ 

TRANSITIONAL ISSUES
====================
[ ___ - Patient's triamterene-HCTZ was held due to ___. Patient 
instructed to continue to hold it after discharge until his 
physician instructs him to restart.
[ ]Pre-diabetes - Consider initiation of metformin.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
6. Ranitidine 150 mg PO QAM 
7. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth Once a day in the 
evening Disp #*30 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID  
4.  Metoprolol Succinate XL 25 mg PO DAILY  
5.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
6.  Ranitidine 150 mg PO QAM  
7. HELD- Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  This 
medication was held. Do not restart Triamterene-HCTZ (37.5/25) 
until your doctor tells you to.
8.Outpatient Lab Work
To be drawn on ___

CHEM-10

ICD-10: N17.9

Please fax results to ___ ___.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Atypical chest pain

SECONDARY DIAGNOSES
====================
Acute kidney injury
Hypertension
Dyslipidemia
Pre-diabetes
GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you here at ___.

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you were having 
chest pain that was concerning.

WHAT WAS DONE WHILE I WAS HERE?
- You underwent a left heart catheterization, which is a 
procedure that uses a catheter to inject dye to look at your 
heart vessels; this showed that your heart vessels are normal.
- You were given medications to manage your chest pain.

WHAT DO I NEED TO DO ONCE I LEAVE?
- Please continue taking your medications as prescribed.
- Please keep all of your appointments.
- If you experience chest pain again, please call Dr. ___ 
___.

Be well and Happy Holidays,

Your ___ Care Team
 
Followup Instructions:
___